US08426408B2
(1S,2S,3R,4R)-3-({2-[(1-ethyl-1H-pyrazol-4-yl)amino]-5-nitropyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide
The title compound was prepared as described in Example 1, substituting 1-ethyl-1H-pyrazol-4-amine for 1-methyl-1H-pyrazol-4-amine in Example 1B along with substitution of (+)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide for (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide and 2,4-dichloro-5-nitropyrimidine for 2,4-dichloro-5-fluoropyrimidine in Example 1A. 1H NMR (400 MHz, DMSO-d6) ppm 1.38 (t, J=7.32 Hz, 3H) 1.42-1.50 (m, 1H) 2.19 (d, J=8.85 Hz, 1H) 2.58 (d, J=7.93 Hz, 1H) 2.84 (s, 1H) 2.91 (s, 1H) 4.10 (q, J=7.32 Hz, 2H) 4.38 (s, 1H) 6.29 (dd, J=5.49, 3.05 Hz, 1H) 6.37 (dd, J=5.65, 2.90 Hz, 1H) 6.80 (br s, 1H) 7.31 (br s, 1H) 7.63 (s, 1H) 7.79 (s, 1H) 8.89 (s, 1H) 9.68 (br s, 1H) 9.98 (br s, 1H); MS (ESI(+)) m/e 385 (M+H)+.

reactant | 1-methyl-1H-pyrazol-4-amine | CN1N=CC(=C1)N | C4H7N3
reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (1S,2S,3R,4R)-3-({2-[(1-ethyl-1H-pyrazol-4-yl)amino]-5-nitropyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | C(C)N1N=CC(=C1)NC1=NC=C(C(=N1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)[N+](=O)[O-] | C17H20N8O3
